US04140715
A process is disclosed for preparing N-(1,1-dimethyl-3-oxobutyl)acrylamide which comprises (1) contacting a dispersion of 5,6-dihydro-6-hydroxy-4,4,6-trimethyl-2-vinyl-1,3,3(4H)-oxazine-3-ium sulfate (1:1) in a water-immiscible organic solvent with a neutralizing or alkalizing amount of gaseous ammonia at a temperature between about 10° C. and 25° C. to form a solution of diacetone acrylamide in said organic solvent and a precipitate of crystalline ammonium sulfate; (2) separating the crystals of ammonium sulfate; (3) cooling the organic mother liquors recovered from step (2) to about -10° C. to 20° C. to crystallize N-(1,1-dimethyl-3-oxobutyl)acrylamide therefrom; and (4) recovering the crystals of N-(1,1-dimethyl-3-oxabutyl) acrylamide, washing the recovered crystals with a cold water-immiscible organic solvent and drying the same.

reactant | N-(1,1-dimethyl-3-oxobutyl)acrylamide | CC(CC(C)=O)(C)NC(C=C)=O | C9H15NO2
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | diacetone acrylamide | C(C=C)(=O)N.CC(=O)C.CC(=O)C | InChI=1S/C3H5NO.2C3H6O/c1-2-3(4)5;2*1-3(2)4/h2H,1H2,(H2,4,5);2*1-2H3
